US05707982
STEP A: 6-[[dimethyl-(1,1-dimethylethyl)-silyl]-oxy]-hexanol
Using the procedure of Step A of Preparation 16, 8.12 g of sodium hydride at 50% in oil, 20 g of 1,6-hexane diol and 25.5 g of tertbutyl dimethyl chloro silane were reacted to obtain after chromatography, 20.7 g of the expected product.

reactant | sodium hydride | 8.12 g | [H-].[Na+]
reactant | 1,6-hexane diol | 20 g | C(CCCCCO)O | C6H14O2
reactant | tertbutyl dimethyl chloro silane | 25.5 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
product | 6-[[dimethyl-(1,1-dimethylethyl)-silyl]-oxy]-hexanol | 20.7 g | C[Si](OCCCCCCO)(C(C)(C)C)C | C12H28O2Si
